US04401673
A mixture of 180 g of 2-(bromoethyl)-1,3-dioxolane and 260 g of triphenylphosphine was heated at 80° C. for 36 hours and the mixture was cooled and filtered. The product was dissolved in methylene chloride and the solution was poured into 3000 ml of ether. The mixture was stirred and vacuum filtered and the product was empasted with ether to obtain 359 g of triphenyl-(1,3-dioxolan-2-yl)-phosphonium bromide melting at 206° C.

reactant | 2-(bromoethyl)-1,3-dioxolane | 180 g | BrCCC1OCCO1 | C5H9BrO2
reactant | triphenylphosphine | 260 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | triphenyl-(1,3-dioxolan-2-yl)-phosphonium bromide | 359 g | [Br-].C1(=CC=CC=C1)[P+](C1OCCO1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H20O2P.BrH/c1-4-10-18(11-5-1)24(21-22-16-17-23-21,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15,21H,16-17H2;1H/q+1;/p-1
